US08809372B2
Using 5-(5-acetylthiophen-2-yl)-1-methylpyridin-2(1H)-one (0.07 g, 0.3 mmol), 4-iodopyridine (0.12 g, 0.6 mmol), and the procedure described for example 7 and step 4, crude compound was obtained and further purified by preparative TLC (5% methanol in dichloromethane) to give 5-(5-(1-hydroxy-1-(pyridin-4-yl)ethyl)thiophen-2-yl)-1-methylpyridin-2(1H)-one as off-white solid (0.02 g, 21% yield) in 99.8% HPLC purity. 1H NMR (400 MHz, DMSO-d6): δ 8.48 (d, 2H), 7.97 (d, 1H), 7.65 (dd, 1H), 7.45-7.44 (t, 2H), 7.07 (d, 1H), 6.94 (d, 1H), 6.41-6.38 (m, 2H), 3.42 (s, 3H), 1.85 (s, 3H); LC-MS m/z calculated for [M+H]+ 313.09, found 313.1.

reactant | 5-(5-acetylthiophen-2-yl)-1-methylpyridin-2(1H)-one | 0.3 mmol, 0.07 g | C(C)(=O)C1=CC=C(S1)C=1C=CC(N(C1)C)=O | C12H11NO2S
reactant | 4-iodopyridine | 0.6 mmol, 0.12 g | IC1=CC=NC=C1 | C5H4IN
product | 5-(5-(1-hydroxy-1-(pyridin-4-yl)ethyl)thiophen-2-yl)-1-methylpyridin-2(1H)-one | 0.02 g, 21% yield | OC(C)(C1=CC=NC=C1)C1=CC=C(S1)C=1C=CC(N(C1)C)=O | C17H16N2O2S
